US08097610B2
To 4N solution of hydrochloric acid-dioxane was added 4-(6-chlorobenzothiazole-2-yl)piperazine-1-carboxylic acid tert-butyl ester (1.50 g; 4.239 mmol). The mixture was stirred at 60° C. for 1 hour. The reaction solution was concentrated under reduced pressure and the residue was washed with ethyl acetate to give 4-(6-chlorobenzothiazole-2-yl)piperazine dihydrochloride as colorless crystal (1.40 g; 100%).

reactant | hydrochloric acid dioxane | Cl.O1CCOCC1
reactant | 4-(6-chlorobenzothiazole-2-yl)piperazine-1-carboxylic acid tert-butyl ester | 4.239 mmol, 1.50 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1SC2=C(N1)C=CC(=C2)Cl | C16H20ClN3O2S
product | 4-(6-chlorobenzothiazole-2-yl)piperazine dihydrochloride | Cl.Cl.ClC1=CC2=C(N=C(S2)N2CCNCC2)C=C1 | InChI=1S/C11H12ClN3S.2ClH/c12-8-1-2-9-10(7-8)16-11(14-9)15-5-3-13-4-6-15;;/h1-2,7,13H,3-6H2;2*1H
